data/pmechdb/original/mc_train_fold0/raw/train.txt
C[Si-:10](C)(C)([O:11]CC#[C-])F>>C[Si:10](C)(C)F.[C-]#CC[O-:11] 10,11=11
CN[C:20](=[O:21])OCCC[O-:10]>>CN[C:20]1(OCCC[O:10]1)[O-:21] 10=20;20,21=21
C[Si:20](C)(C)OS(=O)(=O)C.CS(=O)(=O)[O-:10]>>C[Si-:20](C)(C)(OS(=O)(=O)C)[O:10]S(=O)(=O)C 10=20,
C[C:20]#[N+:21]C1C(CC(=O)N1CC2=CC=CC=C2)[OH:10].[B-](O)(F)(F)F.CCOCC>>C[C:20]1=[N:21]C2C([OH+:10]1)CC(=O)N2CC3=CC=CC=C3.[B-](O)(F)(F)F.CCOCC 10=20;20,21=21
C1=CC(=C(C=C1)[N:10]=[N:20][OH2+:21])CC=CCO>>C1=CC(=C(C=C1)[N+:10]#[N:20])CC=CCO.[OH2:21] 10=20;20,21=21
[H:20][CH:21](C(CC1=CC=CC=C1)NC(=O)C2=CC=CC=C2)[O:22][I+:23]3(C4=C(C=CC=C4)C(=O)O3)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.C1=CC=C(C=C1)CC([CH:21]=[O:22])NC(=O)C2=CC=CC=C2.CC(=O)O 10=20;22,23=23;20,21=21,22
[Li:11][CH2:10]OP(OC)OC.CC1=CCC2(CCCC1([C:20]2=[O:21])Br)C(=O)OC>>[Li+:11].CC1=CCC2(CCCC1([C:20]2([CH2:10]OP(OC)OC)[O-:21])Br)C(=O)OC 10,11=10,20;20,21=21
C[C:20](=[O:21])C1=CC(=CC=C1)Br.[CH2:10]=[C:11](C1=CC(=CC=C1)Br)[O-:12]>>C[C:20]([CH2:10][C:11](=[O:12])C1=CC(=CC=C1)Br)(C2=CC(=CC=C2)Br)[O-:21] 10,11=10,20;20,21=21;12=11
CC(O[C:20](=[O:21])C(F)(F)F)SC1=CC=CC=C1.C(=O)(C(F)(F)F)[O-:10].C1=CC=[NH+]C=C1>>CC(O[C:20](C(F)(F)F)([O-:21])[O:10]C(=O)C(F)(F)F)SC1=CC=CC=C1.C1=CC=[NH+]C=C1 10=20;20,21=21
[H:20][P+:21](N(C)C)(OC)OC.C1=NN=N[N-:10]1>>[H:20][N:10]1C=NN=N1.CN(C)[P:21](OC)OC 10=20;20,21=21
[Li:10][O+:11]1C(CC(OC1(C)[O-])CCO[Si](C)(C)C(C)(C)C)CC(=O)OC>>[Li+:10].CC1(OC(CC([O:11]1)CC(=O)OC)CCO[Si](C)(C)C(C)(C)C)[O-] 10,11=11
[H:20][O+:21]1CCOC1(C)C2=CC(=CC=C2)C#N.[B-]([OH:10])(F)(F)F.CCOCC.C(CO)O>>CC1(OCC[O:21]1)C2=CC(=CC=C2)C#N.[H:20][OH+:10][B-](F)(F)F.CCOCC.C(CO)O 10=20;20,21=21
CCCCCC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COCC)O>>CCCCCC1=CC=C[N:21]=C1.CCOCC1C(C[CH:20]=[O+:10]1)O 10=20;20,21=21
C[CH2-:10].C[Si:20](C)(C)Cl>>C[CH2:10][Si-:20](C)(C)(C)Cl 10=20,
CO[C:20](=[OH+:21])OCCC[NH2:10]>>CO[C:20]1([NH2+:10]CCCO1)[OH:21] 10=20;20,21=21
[H:20][OH2+:21].CCSC[CH:10]=[C:11](C)[O-:12]>>[H:20][CH:10](CSCC)[C:11](=[O:12])C.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][CH2:21][N+:22]1(C2CCC1C=CC2)[O:23]C(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)[O-:23].[CH2:21]=[N+:22]1C2CCC1C=CC2 10=20;22,23=23;20,21=21,22
[H:20][O:21]CC#CCC#CCCCC(=O)OC.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.COC(=O)CCCC#CCC#CC[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
C[SH:10].[CH3:20][Br:21]>>C[SH+:10][CH3:20].[Br-:21] 10=20;20,21=21
CCO[C:20](=[O:21])C1(CCC[CH:10]=[C:11]1[O-:12])C.CC(C)(C)O>>CCO[C:20]1([CH:10]2CCCC1([C:11]2=[O:12])C)[O-:21].CC(C)(C)O 10,11=10,20;20,21=21;12=11
[H:20][S:21]C1=NN=NN1C2=CC=CC=C2.CCO[C:11](=[N:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)[O-:12].CC(=CC1CC(=C)CC(O1)CCO)Br>>[H:20][N:10]([C:11](=[O:12])OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)N2C(=NN=N2)[S-:21].CC(=CC1CC(=C)CC(O1)CCO)Br 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C.C1CC(=[NH:10])C(C2C1CCN2CCS(=O)C3=CC=CC=C3)C4=C(C=CC=C4)N.O>>[H:20][NH+:10]=C1CCC2CCN(C2C1C3=C(C=CC=C3)N)CCS(=O)C4=CC=CC=C4.CC(=O)[O-:21].O 10=20;20,21=21
CC1=CC=C(C=C1)C(=O)[O-:10].C[Si]1(CCC([CH+:20]C1)O)C>>CC1=CC=C(C=C1)C(=O)[O:10][CH:20]2C[Si](CCC2O)(C)C 10=20,
[H:20][Cl:21].C1CC([C:11](=[CH:10]C1C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][CH:10]1C(CCC([C+:11]1C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.[Cl-:21] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C.CC(=O)CCC(C)(NCCO)[OH:10]>>[H:20][OH+:10]C(C)(CCC(=O)C)NCCO.CC(=O)[O-:21] 10=20;20,21=21
C(C[NH2:10])CO[C:20](=[O:21])Cl>>C1C[NH2+:10][C:20](OC1)([O-:21])Cl 10=20;20,21=21
[H:10][C:11]1(CCC(CC1CCC)CCCCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CCC)CCCCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
C1=CC(=CC(=C1)[CH:20]=[O+:21]CC[OH:10])Cl.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.O>>C1C[O:21][CH:20]([OH+:10]1)C2=CC=CC(=C2)Cl.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.O 10=20;20,21=21
C[Si:20](C)(C)C1=C(C=CC=C1)OS(=O)(=O)C(F)(F)F.[F-:10].CC(=O)NC(=O)C>>C[Si-:20](C)(C)(C1=C(C=CC=C1)OS(=O)(=O)C(F)(F)F)[F:10].CC(=O)NC(=O)C 10=20,
[H:20][NH2+:21]C1=C(C=CC(=C1)C(=O)C2=CC=CC=C2)N.CC1(CC2=C(C=NN2C3=CC=C(C=C3)F)C4(C1=NC5=C([NH2+]4)C=CC(=C5)C(=O)C6=CC=CC=C6)[O-:10])C.CCO.O.[Cl-]>>[H:20][O:10]C12C3=C(CC(C1=NC4=C([NH2+]2)C=CC(=C4)C(=O)C5=CC=CC=C5)(C)C)N(N=C3)C6=CC=C(C=C6)F.C1=CC=C(C=C1)C(=O)C2=CC(=C(C=C2)N)[NH2:21].CCO.O.[Cl-] 10=20;20,21=21
CC1C(=C([O:10][C:20]1(C2=CC(=C(C=C2)OC)OC)[OH2+:21])C3=CC(=C(C=C3)OC)OC)C.CO.O.[Cl-]>>CC1C(=C([O+:10]=[C:20]1C2=CC(=C(C=C2)OC)OC)C3=CC(=C(C=C3)OC)OC)C.[OH2:21].CO.O.[Cl-] 10=20;20,21=21
[H:20][C:21]1(C=C(O[CH+:22]1)C(=O)C)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]OC(=C1)C(=O)C 10=20;20,21=21,22
C[C-:10](C(F)(F)F)N=CC1=CC=C(C=C1)[N+](=O)[O-].C1=CC=C(C=C1)[CH:20]=[CH:21]C=O.O>>C[C:10]([CH:20]([CH-:21]C=O)C1=CC=CC=C1)(C(F)(F)F)N=CC2=CC=C(C=C2)[N+](=O)[O-].O 10=20;20,21=21
